US08648066B2
N-(2-chloro-5-{4-[7-(methyloxy)quinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}pyridin-3-yl)methanesulfonamide.
Synthesized according to the method of example 5 using N-(5-bromo-2-chloropyridin-3-yl)methanesulfonamide (reagent preparation 25) and {4-[7-(methyloxy)quinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}boronic acid (reagent preparation 23) in step 1. 1H NMR (400 MHz, d6-DMSO): 8.92 (br s, 1H), 8.75 (s, 1H), 8.62 (d, 1H), 8.19 (d, 1H), 8.10 (d, 1H), 7.89 (s, 1H), 7.62 (dd, 1H), 7.33 (dd, 1H), 7.25 (d, 1H), 7.04 (d, 1H), 5.41 (s, 2H), 4.65 (s, 2H), 4.47 (s, 2H), 3.96 (s, 3H), 3.19 (s, 3H); MS (EI) for C24H22ClN5O4S: 514 (MH+).

reactant | N-(5-bromo-2-chloropyridin-3-yl)methanesulfonamide | BrC=1C=C(C(=NC1)Cl)NS(=O)(=O)C | C6H6BrClN2O2S
reactant | {4-[7-(methyloxy)quinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}boronic acid | COC1=CC=C2C(=NC=NC2=C1)N1CCOC2=C(C1)C=C(C=C2)B(O)O | C18H18BN3O4
product | N-(2-chloro-5-{4-[7-(methyloxy)quinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}pyridin-3-yl)methanesulfonamide | ClC1=NC=C(C=C1NS(=O)(=O)C)C=1C=CC2=C(CN(CCO2)C2=NC=NC3=CC(=CC=C23)OC)C1 | C24H22ClN5O4S
